US07812022B2
2,6-Difluoro-N-(3-{3-[2-(6-isoquinolinylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-2-yl}phenyl)benzamide
A mixture of N-{3-[3-(2-chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,6-difluorobenzamide and 6-isoquinolinamine and 6-isoquinolinamine in i-PrOH was heated in a microwave in a procedure analogous to that described in Example 64 to give, after purification, the title compound. LC MS (ES)+ 570.25. 1H NMR (400 MHz, DMSO-d6) δ 6.95 (s, 1H), 7.17-7.30 (m, 4H), 7.41 (d, 1H, J=7.5), 7.51-7.56 (m, 3H), 7.64 7.68 (m, 1H), 7.78-7.81 (m, 2H), 8.05 (s, 1H), 8.09 (bs, 2H), 8.19 (d, 1H, J=9.1), 8.41 (d, 1H, J=9.0), 8.85-8.89 (m, 2H), 8.96 (d, 1H, J=6.8), 9.8 (s, 1H), 10.94 (s, 1H).

reactant | N-{3-[3-(2-chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,6-difluorobenzamide | ClC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=C(C=CC2)NC(C2=C(C=CC=C2F)F)=O | C24H14ClF2N5O
reactant | 6-isoquinolinamine | C1=NC=CC2=CC(=CC=C12)N | C9H8N2
solvent | i-PrOH | CC(C)O | C3H8O
product | 2,6-Difluoro-N-(3-{3-[2-(6-isoquinolinylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-2-yl}phenyl)benzamide | FC1=C(C(=O)NC2=CC(=CC=C2)C2=NN3C(C=CC=C3)=C2C2=NC(=NC=C2)NC=2C=C3C=CN=CC3=CC2)C(=CC=C1)F | C33H21F2N7O
